US08426447B2
A resealable was charged with (S)-2′-bromo-7′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (300 mg, 0.704 mmol), 3-methyl-5-(tributylstannyl)isoxazole (786 mg, 2.111 mmol), amphos (18.68 mg, 0.070 mmol) and argon purged dry dioxane (3 mL). The tube was purged with argon, sealed and heated with microwave at 100° C. for 1 h. The solution was concentrated. The crude product was purified via silica gel column chromatography (RediSep 12 g column) using 10-50% 90/10/1 DCM/MeOH/ammonia in DCM to afford (S)-2′-(2-fluoropyridin-3-yl)-7′-(3-methylisoxazol-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine as a white solid. MS m/z=429.2 [M+H]+. Calcd for C24H17FN4O3: 428.42.

reactant | (S)-2′-bromo-7′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 0.704 mmol, 300 mg | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C=1C(=NC=CC1)F)N=C(OC3)N | C20H13BrFN3O2
reactant | 3-methyl-5-(tributylstannyl)isoxazole | 2.111 mmol, 786 mg | CC1=NOC(=C1)[Sn](CCCC)(CCCC)CCCC
reactant | amphos | 0.070 mmol, 18.68 mg | CC(CC1=CC=CC=C1)N.OP(=O)(O)O
product | (S)-2′-(2-fluoropyridin-3-yl)-7′-(3-methylisoxazol-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | FC1=NC=CC=C1C1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)C1=CC(=NO1)C)N=C(OC3)N | C24H17FN4O3
